US05874424
(3S)-2-Oxo3-tert-butoxycarbonylamino-2,3,4,5-tetrahydro-7,9-dimethyl-1H-1,5-benzodiazepine-1-acetic acid benzyl ester (600c).
2-Oxo-(3S)-3-tert-butoxycarbonylamino-2,3,4,5-tetrahydro-7,9-dimethyl-1H-1,5-benzodiazepine. A 0° C. solution of (2S)-2-tert-butoxycarbonylamino-3-(2-amino-3,5-dimethylphenyl-amino)-propionic acid (763 mg, 2.36 mmol) and N-methylmorpholine (483 mg, 4.78 mmol) in 60 ml of anhydrous THF was treated dropwise with isobutylchloroformate (352 mg, 2.5 mmol). The reaction was stirred for 2 h at 0° C., at RT for 1 h and poured over EtOAc. The mixture was washed with aq. 5% NaHSO4, sat. aq. NaHCO3, and sat. aq. NaCl, dried over NaSO4, and concentrated in vacuo. Chromatography (flash, SiO2, 10% to 25% to 50% EtOAc/CH2Cl2) gave 490 mg (68%) of the desired product.

reactant | 2-Oxo-(3S)-3-tert-butoxycarbonylamino-2,3,4,5-tetrahydro-7,9-dimethyl-1H-1,5-benzodiazepine | O=C1[C@H](CNC2=C(N1)C(=CC(=C2)C)C)NC(=O)OC(C)(C)C | C16H23N3O3
reactant | (2S)-2-tert-butoxycarbonylamino-3-(2-amino-3,5-dimethylphenyl-amino)-propionic acid | 2.36 mmol, 763 mg | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)CNC1=C(C(=CC(=C1)C)C)N | C16H25N3O4
reactant | N-methylmorpholine | 4.78 mmol, 483 mg | CN1CCOCC1 | C5H11NO
reactant | isobutylchloroformate | 2.5 mmol, 352 mg | C(C(C)C)OC(=O)Cl | C5H9ClO2
solvent | THF | 60 ml | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (3S)-2-Oxo3-tert-butoxycarbonylamino-2,3,4,5-tetrahydro-7,9-dimethyl-1H-1,5-benzodiazepine-1-acetic acid benzyl ester | 490 mg, 68% | C(C1=CC=CC=C1)OC(CN1C([C@H](CNC2=C1C(=CC(=C2)C)C)NC(=O)OC(C)(C)C)=O)=O | C25H31N3O5
